US06893859B2
(b) (3S,6R,7S,8S,10E,12Z,15S,16E)-5-oxo-3-(triethylsilyloxy)-15-hydroxy-17-(2-methylthiazol-4-yl)-4,4,6,8,12,16-hexamethyl-7-(2,2,2-trichloroethoxycarbonyloxy)-heptadeca-10,12,16-trienoic acid
A solution of tert-butyl (3S,6R,7S,8S,10E,12Z,15S,16E)-5-oxo-3,15-bis(triethylsilyloxy)-17-(2-methylthiazol-4-yl)-4,4,6,8,12,16-hexamethyl-7-(2,2,2-trichloroethoxycarbonyloxy)-heptadeca-10,12,16-trienoate (2.38 g) in 12 mL of CH2Cl2 is treated with 2,6-lutidine (0.86 mL) and triethylsilyl trifluoromethanesulfonate (0.98 g) at 0° C. for 30 minutes, then at ambient temperature for 10 hours. The mixture is diluted with 50 mL of ethyl acetate and poured into 20 mL of 1 N HCl. The organic phase is separated, washed with pH 7 phosphate buffer, dried with Na2SO4, filtered, and concentrated. The residue is dissolved in 5 mL of THF and treated with 0.5 mL of 0.1 N HCl in methanol. The reaction is monitored by thin-layer chromatography, with additional aliquots of methanolic HCl being added to achieve complete reaction. When complete, the reaction is poured into 15 mL of pH 7 phosphate buffer and extracted with ethyl acetate. The extract is washed with brine, dried with Na2SO4, filtered, and evaporated. The product is purified by flash chromatography on Sio2 (1:1 hexanes/ethyl acetate).

reactant | tert-butyl (3S,6R,7S,8S,10E,12Z,15S,16E)-5-oxo-3,15-bis(triethylsilyloxy)-17-(2-methylthiazol-4-yl)-4,4,6,8,12,16-hexamethyl-7-(2,2,2-trichloroethoxycarbonyloxy)-heptadeca-10,12,16-trienoate | 2.38 g | O=C(C([C@H](CC(=O)OC(C)(C)C)O[Si](CC)(CC)CC)(C)C)[C@@H]([C@H]([C@H](C\C=C\C(=C/C[C@@H](\C(=C\C=1N=C(SC1)C)\C)O[Si](CC)(CC)CC)\C)C)OC(=O)OCC(Cl)(Cl)Cl)C | C46H78Cl3NO8SSi2
reactant | 2,6-lutidine | 0.86 mL | N1=C(C=CC=C1C)C | C7H9N
reactant | triethylsilyl trifluoromethanesulfonate | 0.98 g | FC(S(=O)(=O)O[Si](CC)(CC)CC)(F)F | C7H15F3O3SSi
reactant | HCl | 1 N, 20 mL | Cl | ClH
reactant | phosphate | 15 mL, pH 7 | P(=O)([O-])([O-])[O-]
solvent | CH2Cl2 | 12 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | (3S,6R,7S,8S,10E,12Z,15S,16E)-5-oxo-3-(triethylsilyloxy)-15-hydroxy-17-(2-methylthiazol-4-yl)-4,4,6,8,12,16-hexamethyl-7-(2,2,2-trichloroethoxycarbonyloxy)-heptadeca-10,12,16-trienoic acid | O=C(C([C@H](CC(=O)O)O[Si](CC)(CC)CC)(C)C)[C@@H]([C@H]([C@H](C\C=C\C(=C/C[C@@H](\C(=C\C=1N=C(SC1)C)\C)O)\C)C)OC(=O)OCC(Cl)(Cl)Cl)C | C36H56Cl3NO8SSi
